US04624699
4-Chloro-2-fluoroaniline (23 g) was dissolved in conc. sulfuric acid (120 ml), and the resultant mixture was cooled to -20° C., followed by dropwise addition of fuming nitric acid (15 g). The reaction mixture was stirred at -20° to -15° C. for 1.5 hours, poured into ice-water and then extracted with ether. The ether extract was washed with water and a saturated sodium bicarbonate solution, dried and concentrated. The residue was crystallized from a mixture of toluene and hexane (2:1) to obtain 20 g of 4-chloro-2-fluoro-5-nitroaniline. m.p., 83°-84.5° C.

reactant | 4-Chloro-2-fluoroaniline | 23 g | ClC1=CC(=C(N)C=C1)F | C6H5ClFN
reactant | nitric acid | 15 g | [N+](=O)(O)[O-] | HNO3
solvent | sulfuric acid | 120 ml | S(O)(O)(=O)=O | H2O4S
product | 4-chloro-2-fluoro-5-nitroaniline | 20 g | ClC1=CC(=C(N)C=C1[N+](=O)[O-])F | C6H4ClFN2O2
